US06248766B1
Sodium[(2-diphenylmethylthio-4,5-dihydronaphto[1,2-d]thiazol-6-yl)oxy]acetate
To a solution of [(2-diphenylmethylthio-4,5-dihydronaphto[1,2-d]thiazol-6-yl)oxy]acetic acid (1.00 g, 1.09 mmol) in ethanol (50 mL) was added 1N-aqueous sodium hydroxide solution (2.2 mL) dropwise and the mixture was stirred at room temperature for 20 minutes. The solvent was then distilled off under reduced pressure. The residue was recrystallized from ethanol/water to provide 0.48 g of the title compound.

reactant | [(2-diphenylmethylthio-4,5-dihydronaphto[1,2-d]thiazol-6-yl)oxy]acetic acid | 1.09 mmol, 1.00 g | C1(=CC=CC=C1)C(SC=1SC2=C(N1)C1=CC=CC(=C1CC2)OCC(=O)O)C2=CC=CC=C2 | C26H21NO3S2
reactant | sodium hydroxide | 2.2 mL | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | Sodium[(2-diphenylmethylthio-4,5-dihydronaphto[1,2-d]thiazol-6-yl)oxy]acetate | 0.48 g, Yield 46% | C1(=CC=CC=C1)C(SC=1SC2=C(N1)C1=CC=CC(=C1CC2)OCC(=O)[O-])C2=CC=CC=C2.[Na+] | InChI=1S/C26H21NO3S2.Na/c28-23(29)16-30-21-13-7-12-20-19(21)14-15-22-24(20)27-26(31-22)32-25(17-8-3-1-4-9-17)18-10-5-2-6-11-18;/h1-13,25H,14-16H2,(H,28,29);/q;+1/p-1
